US05217976
5,7-Diethyl-3-methoxy-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,6-naphthyridin-2(1H)-one (80 mg) was suspended in dichloromethane (1 ml) and a 1M solution of boron tribromide in dichloromethane (0.5 ml) was added. The mixture was stirred for 16 hours then methanol (3 ml) was added dropwise. The mixture was heated at reflux for 5 minutes and volatile material was then removed by evaporation. The residue was recrystallised from ethanol/ether to give 5,7-diethyl-3-hydroxy-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)-methyl]-1,6-naphthyridin-2(1H)-one hydrobromide as a solid (45 mg), m.p. 190°-194° C.; NMR (d6 -DMSO): 1.24(t, 3H), 1.30(t, 3H), 2.92(q, 2H), 3.22(q, 2H), 5.64(s, 2H), 7.07(d, 2H), 7.22(d, 2H), 7.45-7.75(m, 6H); mass spectrum (+ve FAB, methanol/NBA): 453 (M+H)+ ; microanalysis, found: C, 57.1; H, 4.9; N, 14.7%; C26H24N6O2.Hbr.1.5H2O requires: C, 56.7; H, 5.1; N, 15.2%.

reactant | 5,7-Diethyl-3-methoxy-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)methyl]-1,6-naphthyridin-2(1H)-one | 80 mg | C(C)C1=C2C=C(C(N(C2=CC(=N1)CC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)OC | C27H26N6O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | 3 ml | CO | CH4O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 5,7-diethyl-3-hydroxy-1-[(2'-(1H-tetrazol-5-yl)biphenyl-4-yl)-methyl]-1,6-naphthyridin-2(1H)-one hydrobromide | 45 mg | Br.C(C)C1=C2C=C(C(N(C2=CC(=N1)CC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)O | InChI=1S/C26H24N6O2.BrH/c1-3-18-13-23-21(22(4-2)27-18)14-24(33)26(34)32(23)15-16-9-11-17(12-10-16)19-7-5-6-8-20(19)25-28-30-31-29-25;/h5-14,33H,3-4,15H2,1-2H3,(H,28,29,30,31);1H
